US04845079
N-(Benzyloxyacetyl)morpholine
Using the mixed anhydride procedure described in Example 2, morpholine was coupled to benzyloxyacetic acid to give the desired product in 90% yield.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | benzyloxyacetic acid | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
product | N-(Benzyloxyacetyl)morpholine | 90% yield | C(C1=CC=CC=C1)OCC(=O)N1CCOCC1 | C13H17NO3
